US04724031
4-(2,3-Epoxypropyl)- 2,6-diphenylphenyl glycidyl ether
A 100 ml sulfurating flask equipped with stirrer, cooler, thermometer and drip funnel is charged with 13.7 g (0.04 mole) of 4-allyl-2,6-diphenylphenyl glycidyl ether in 20 ml of toluene and 0.7 g of sodium acetate. Over 2 hours, 9.13 g (0.048 mole) of 40% peracetic acid are added at a temperature in the range from 30° to 50° C. When the dropwise addition is complete, the reaction mixture is stirred for a further 7 hours. When the reaction is complete, the reaction mixture is diluted with 700 ml of toluene, the resultant aqueous phase is separated and the organic phase is washed with two 150 ml portions of NaHCO3 (5%) and then washed with 150 ml of water. The organic phase is dried over Na2SO4 and made peroxide-free with Na2SO3 and filtered. The filtrate is concentrated, affording 12.46 g (86.5%) of a yellow resin with an epoxide content of 4.99 eq/kg (89.5%) and a viscosity of 6850 mPas/40° C.

reactant | 4-allyl-2,6-diphenylphenyl glycidyl ether | 0.04 mole, 13.7 g | C(C1CO1)OC1=C(C=C(C=C1C1=CC=CC=C1)CC=C)C1=CC=CC=C1 | C24H22O2
reactant | peracetic acid | 0.048 mole, 9.13 g | C(C)(=O)OO | C2H4O3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium acetate | 0.7 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,3-Epoxypropyl)- 2,6-diphenylphenyl glycidyl ether | 12.46 g, 86.5% | C(C1CO1)OC1=C(C=C(C=C1C1=CC=CC=C1)CC1CO1)C1=CC=CC=C1 | C24H22O3
